datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2c(OCCCC[NH2:10])c3ccccc3cc2c1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2c(OCCCC[NH2+:10][H:20])c3ccccc3cc2c1 10=20;20,21=21",
"O/N=C/c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O/N=C/c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCC[NH+:21](c1ccccc1)[H:20].C[N:10](C)c1ccc(C#N)cc1>>CCCCC[NH:21]c1ccccc1.C[N+:10](C)(c1ccc(C#N)cc1)[H:20] 10=20;20,21=21",
"NCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>NCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Nc1n(-c2cccc([N+](=O)[O-])c2)nn[n:10]1.OC(c1ccccc1)c1cccc[n+:21]1[H:20]>>Nc1n(-c2cccc([N+](=O)[O-])c2)nn[n+:10]1[H:20].OC(c1ccccc1)c1cccc[n:21]1 10=20;20,21=21",
"CCn1nnnc1[N:21]([N+](=O)[O-])[H:20].Fc1ccc([S-:10])cc1>>CCn1nnnc1[N-:21][N+](=O)[O-].Fc1ccc([S:10][H:20])cc1 10=20;20,21=21",
"CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[NH+]2CC)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[NH+]2CC)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)C1(c2cccc(O)c2)CC[N+:21](C)([H:20])CC1.CNc1sc(c2ccccc2)n[n:10]1>>CC(=O)C1(c2cccc(O)c2)CC[N:21](C)CC1.CNc1sc(c2ccccc2)n[n+:10]1[H:20] 10=20;20,21=21",
"O=C(CCc1ccsc1)[O-:10].[O-]c1c2nc[nH]c2nc[n+:21]1[H:20]>>O=C(CCc1ccsc1)[O:10][H:20].[O-]c1c2nc[nH]c2nc[n:21]1 10=20;20,21=21",
"Brc1c(-c2ccccc2)noc1[O:21][H:20].NC(=S=[O:10])c1ccccc1>>Brc1c(-c2ccccc2)noc1[O-:21].NC(=S=[O+:10][H:20])c1ccccc1 10=20;20,21=21",
"Cc1cc(C(=O)[O:21][H:20])ccc1[N+](=O)[O-].O=C1CCC(=O)[N-:10]1>>Cc1cc(C(=O)[O-:21])ccc1[N+](=O)[O-].O=C1CCC(=O)[N:10]1[H:20] 10=20;20,21=21",
"NCC[NH:10]CCCO.O=C1C=COC(C(=O)[O:21][H:20])=C1>>NCC[NH+:10](CCCO)[H:20].O=C1C=COC(C(=O)[O-:21])=C1 10=20;20,21=21",
"O=[N+]([O-])c1ccc([O-])c(C[N+:21]2([H:20])CCOCCOCCOCCOCC2)c1.[O-]B(O)c1cccc([O-:10])c1>>O=[N+]([O-])c1ccc([O-])c(C[N:21]2CCOCCOCCOCCOCC2)c1.[O-]B(O)c1cccc([O:10][H:20])c1 10=20;20,21=21",
"CC(C)c1cccc[n+:21]1[H:20].CC1=C(C(C)C)C(=[O:10])N(c2ccccc2)N1C>>CC(C)c1cccc[n:21]1.CC1=C(C(C)C)C(=[O+:10][H:20])N(c2ccccc2)N1C 10=20;20,21=21",
"C=CCC(C)(C[N:10](CC)CC)OC(=O)CC(C)C.COc1ccc2c(c1O)C[N+:21](C)([H:20])CCc1cc3c(cc1C(=O)C2)OCO3>>C=CCC(C)(C[N+:10](CC)(CC)[H:20])OC(=O)CC(C)C.COc1ccc2c(c1O)C[N:21](C)CCc1cc3c(cc1C(=O)C2)OCO3 10=20;20,21=21",
"CCOC(=O)N1CCc2noc([O-:10])c2CC1.CC[NH+](CC)CCNc1cc(Nc2ccc(Cl)cc2)[n+:21]([H:20])c(C)n1>>CCOC(=O)N1CCc2noc([O:10][H:20])c2CC1.CC[NH+](CC)CCNc1cc(Nc2ccc(Cl)cc2)[n:21]c(C)n1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.O=C([O-])C1Cc2[nH]cnc2C[NH:10]1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.O=C([O-])C1Cc2[nH]cnc2C[NH+:10]1[H:20] 10=20;20,21=21",
"CC(C)(C)c1ccc(C(O)CCC[N+:21]2([H:20])CCC(C(O)(c3ccccc3)c3ccccc3)CC2)cc1.CN1CCCCC[N:10]1C>>CC(C)(C)c1ccc(C(O)CCC[N:21]2CCC(C(O)(c3ccccc3)c3ccccc3)CC2)cc1.CN1CCCCC[N+:10]1(C)[H:20] 10=20;20,21=21",
"CC(C)(C(C(=O)[O-])n1ccnc1Cc1ccccc1)[S-:10].O=C(C1c2ccccc2-c2ccccc21)[O:21][H:20]>>CC(C)(C(C(=O)[O-])n1ccnc1Cc1ccccc1)[S:10][H:20].O=C(C1c2ccccc2-c2ccccc21)[O-:21] 10=20;20,21=21",
"CC1(C)NC(=S)[N-:10]C1=O.Cc1ccc([NH2+:21][H:20])c(C)c1>>CC1(C)NC(=S)[N:10]([H:20])C1=O.Cc1ccc([NH2:21])c(C)c1 10=20;20,21=21",
"CC(C[NH3+])C(=O)[O:21][H:20].C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2:10]>>CC(C[NH3+])C(=O)[O-:21].C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"O=C(O)C[NH2+:21][H:20].O=C1C=CC=C([O-:10])C=C1O>>O=C(O)C[NH2:21].O=C1C=CC=C([O:10][H:20])C=C1O 10=20;20,21=21",
"Cc1ccccc1C(=NCCC[N:10](C)C)c1ccccc1C.[O-]c1cnc2ccccc2[n+:21]1[H:20]>>Cc1ccccc1C(=NCCC[N+:10](C)(C)[H:20])c1ccccc1C.[O-]c1cnc2ccccc2[n:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC1CC[C@H](O)[C@@H]([NH2:10])C1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC1CC[C@H](O)[C@@H]([NH2+:10][H:20])C1 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C1CNCCNCC[NH+:10]([H:20])C1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"O=C(C1(O)CCCCCC1)[O-:10].Oc1ccccc1-c1cccc[n+:21]1[H:20]>>O=C(C1(O)CCCCCC1)[O:10][H:20].Oc1ccccc1-c1cccc[n:21]1 10=20;20,21=21",
"C[N:10]1Cc2c(ccc3c2OCO3)-c2ccc3cc4c(cc3c21)OCO4.Clc1ccccc1-c1nnn[n:21]1[H:20]>>C[N+:10]1([H:20])Cc2c(ccc3c2OCO3)-c2ccc3cc4c(cc3c21)OCO4.Clc1ccccc1-c1nnn[n-:21]1 10=20;20,21=21",
"CC1C[N+:21]([H:20])=C(C(C)(C)C)S1.O=C1Oc2cc([O-:10])ccc2C=C1c1nc2ccccc2s1>>CC1C[N:21]=C(C(C)(C)C)S1.O=C1Oc2cc([O:10][H:20])ccc2C=C1c1nc2ccccc2s1 10=20;20,21=21",
"Cc1cc(C)c(C)c([NH2+:21][H:20])c1C.Cc1cc([N+](=O)[O-])cc(C)c1[O-:10]>>Cc1cc(C)c(C)c([NH2:21])c1C.Cc1cc([N+](=O)[O-])cc(C)c1[O:10][H:20] 10=20;20,21=21",
"C[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].ClCC[O-:10]>>C[C-:21](C1=CC=CC=C1)[N+](=O)[O-].ClCC[O:10][H:20] 10=20;20,21=21",
"O=C(CC[NH2+:21][H:20])c1ccccc1.O=C([C@@H]1O[C@H](Oc2cccc3[nH+]cccc23)[C@@H](O)[C@H](O)[C@H]1O)[O-:10]>>O=C(CC[NH2:21])c1ccccc1.O=C([C@@H]1O[C@H](Oc2cccc3[nH+]cccc23)[C@@H](O)[C@H](O)[C@H]1O)[O:10][H:20] 10=20;20,21=21",
